US06413991B1
2-(4-(2-Amino-2-methylpropyl)phenoxy)-5-cyanopyridine
A mixture of 4-(2-amino-2-methylpropyl)phenol acetic acid salt (22.53 g, 100 mmol), powdered K2CO3 (34.55 g, 250 mmol) and DMAC (275 ml) was heated to 100° C. Toluene (94 ml) was added and the mixture slowly heated to reflux. The reflux temperature was raised by distillation of toluene and water until it reached 140° C. The mixture was then cooled to below 100° C. and 2-chloronicotinonitrile (13.86 g, 100 mmol) added with a toluene rinse (50 ml). The mixture was again heated to reflux and the reflux temperature raised to 140° C. as before. Then the water trap was filled with toluene and the reflux continued for 40 min., at which point HPLC showed no 2-chloronicotinonitrile remained but the reaction was not complete. After cooling the reaction below reflux, additional 2-chloronicotinonitrile (0.63 g, 4.5 mmol) was added and reflux continued for 90 min. The reaction was cooled to room temperature and the solids filtered with a toluene wash. The filtrate was concentrated on a rotary evaporator to 41 g of syrup which was dissolved in EtOAc (200 ml). This solution was washed with water (200 ml) and the aqueous layer back-extracted with EtOAc (50 ml). The combined organic layers were washed with water (3×200 ml) and concentrated in vacuo to 26.93 g of solid, ˜100% of theory. HPLC indicated 94.3% purity. 1H NMR (300 MHz, DMSO-d6) was consistent with the desired product.

reactant | 4-(2-amino-2-methylpropyl)phenol acetic acid salt | 100 mmol, 22.53 g | C(C)(=O)O.NC(CC1=CC=C(C=C1)O)(C)C
reactant | K2CO3 | 250 mmol, 34.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMAC | 275 ml | CC(=O)N(C)C | C4H9NO
reactant | 2-chloronicotinonitrile | 100 mmol, 13.86 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 2-chloronicotinonitrile | 4.5 mmol, 0.63 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | Toluene | 94 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(2-Amino-2-methylpropyl)phenoxy)-5-cyanopyridine | NC(CC1=CC=C(OC2=NC=C(C=C2)C#N)C=C1)(C)C | C16H17N3O
